US09120754B2
10-methyl-9-oxo-9,10-dihydroacridine-2,7-disulfonyl dichloride
A mixture of 10-methylacridin-9(10H)-one (4.2 g, 20 mmole) and chlorosulfonic acid (100 mL, 1.5 mole) was heated at reflux for 5 hours. Reaction mixture was then condensed, cooled down to room temperature and poured carefully on 500 g of ice. The yellow precipitate of product was collected by filtration, washed with water and dried to provide 8.1 g of the title compound. This material was used for next step without purification.

reactant | 10-methylacridin-9(10H)-one | 20 mmole, 4.2 g | CN1C=2C=CC=CC2C(C2=CC=CC=C12)=O | C14H11NO
reactant | chlorosulfonic acid | 1.5 mole, 100 mL | ClS(=O)(=O)O | ClHO3S
product | 10-methyl-9-oxo-9,10-dihydroacridine-2,7-disulfonyl dichloride | 8.1 g | CN1C=2C=CC(=CC2C(C2=CC(=CC=C12)S(=O)(=O)Cl)=O)S(=O)(=O)Cl | C14H9Cl2NO5S2
